US07517873B2
A mixture of 0.0203 g (0.000066 mole) of 2-chloro-9-cyclopentyl-5,7,7-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one (VII-38), 0.0207 g (0.000077 mole) of N-(1-methyl-piperidin-4-yl)-4-nitro-benzenesulfonamide, 0.6 mL of ethanol, 2.4 mL of water and 2 drops of hydrochloric acid was heated at reflux for 17 hrs. The mixture was taken up in 50 mL of ethyl acetate and washed successively twice with 7 mL of 1M sodium hydroxide, twice with 7 mL of water and 7 mL of brine. The organic layer was concentrated under reduced pressure and the residue purified by silica gel chromatography, elution with dichloromethane-methanol 95:5-80:20) gave 0.0151 g of 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzenesulfonamide (I-64) as an off-white solid.

reactant | 2-chloro-9-cyclopentyl-5,7,7-trimethyl-5,7,8,9-tetrahydro-pyrimido[4,5-b][1,4]diazepin-6-one | 0.000066 mole, 0.0203 g | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)C2CCCC2)N1 | C15H21ClN4O
reactant | N-(1-methyl-piperidin-4-yl)-4-nitro-benzenesulfonamide | 0.000077 mole, 0.0207 g | CN1CCC(CC1)NS(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H17N3O4S
reactant | ethanol | 0.6 mL | C(C)O | C2H6O
reactant | water | 2.4 mL | O | H2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | 4-(9-cyclopentyl-5,7,7-trimethyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-methyl-piperidin-4-yl)-benzenesulfonamide | 0.0151 g | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)NC2=CC=C(C=C2)S(=O)(=O)NC2CCN(CC2)C | C27H39N7O3S
